US09428508B2
To a suspension of 4-(3-methoxy-4-nitrophenyl)morpholine (100 g, 0.42 mol) in tetrahydrofuran (2 L) was added palladium on carbon (10%, 10 g). The mixture was stirred under an atmosphere of hydrogen for 12 hours. The catalyst was removed by filtration and the filtrate was evaporated to afford the product 2-methoxy-4-morpholinoaniline (87 g, yield 100%).

reactant | 4-(3-methoxy-4-nitrophenyl)morpholine | 0.42 mol, 100 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C11H14N2O4
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 10 g | [Pd] | Pd
product | 2-methoxy-4-morpholinoaniline | 87 g, yield 100% | COC1=C(N)C=CC(=C1)N1CCOCC1 | C11H16N2O2
